US04350706
Preparation of N-(2-chlorobenzoyl)-N'-[4-(1-phenylethoxy)phenyl]urea (2).
18.7 g of 2-chlorobenzoylisocyanate were added to 150 ml of a solution of 23.4 g of 4-(1-phenylethoxy)aniline in dry acetonitrile. After stirring at room temperature for a few hours, the crystalline precipitate was sucked off, washed with successively acetonitrile, ethanol and petroleum ether and dried in air. The desired product was obtained in a yield of 32.8 g; melting point 166°-167° C. The starting aniline was obtained from the corresponding nitro compound by hydrogenation with hydrogen under the influence of Raney nickel as a catalyst in alcohol as a solvent. α-Methylbenzyl-4-nitrophenyl ether was prepared from a reaction of 1-bromo-1-phenyl-ethane and 4-nitrophenol under the influence of anhydrous potassium carbonate in acetone as a solvent.

reactant | 2-chlorobenzoylisocyanate | 18.7 g | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
reactant | 4-(1-phenylethoxy)aniline | 23.4 g | C1(=CC=CC=C1)C(C)OC1=CC=C(N)C=C1 | C14H15NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-chlorobenzoyl)-N'-[4-(1-phenylethoxy)phenyl]urea | ClC1=C(C(=O)NC(=O)NC2=CC=C(C=C2)OC(C)C2=CC=CC=C2)C=CC=C1 | C22H19ClN2O3
